US05792786
Preparation of Indomethacin-Glycine
To a suspension of indomethacin (500 mg, 1.40 mmole) in acetonitrile (20 ml), HOSu (177 mg, 1.54 mmole) and DCC (317 mg, 1.54 mmole) were added and the solution stirred at room temperature for 2 h. A solution of glycine (178 mg, 2.38 mmole) and triethylamine (184 mg, 1.82 mmole) in water (10 ml) was added to the resulting indomethacin hydroxysuccinimide ester and stirred for 2 h, diluted with water (60 ml), acidified with 1M HCl and extracted with ethyl acetate (80 ml). After drying (MgSO4) the solution was evaporated to dryness to give a yellow solid, which was recrystallised from ethylacetate/hexane to give the title product (406 mg, 70% theory) in 95% purity as determined by 1H NMR.

reactant | indomethacin | 1.40 mmole, 500 mg | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | HOSu | 1.54 mmole, 177 mg | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 1.54 mmole, 317 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | glycine | 2.38 mmole, 178 mg | NCC(=O)O | C2H5NO2
reactant | triethylamine | 1.82 mmole, 184 mg | C(C)N(CC)CC | C6H15N
reactant | HCl | 1M | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 10 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | Indomethacin Glycine | 406 mg, 70% | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O.NCC(=O)O | InChI=1S/C19H16ClNO4.C2H5NO2/c1-11-15(10-18(22)23)16-9-14(25-2)7-8-17(16)21(11)19(24)12-3-5-13(20)6-4-12;3-1-2(4)5/h3-9H,10H2,1-2H3,(H,22,23);1,3H2,(H,4,5)
